US08629137B2
3-{1-[6-chloro-5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyridazin-3-yl]-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
360 mg (1.31 mmol) 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one, 480 mg (1.19 mmol) 6-(3.6-dichloro-pyridazine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one and 0.300 mL (1.74 mmol) DIPEA were stirred in 3 mL DMF for 4 h at 100° C. Then the reaction mixture was cooled, combined with 0.5 mL formic acid and 15 mL water, the precipitate formed was suction filtered and dried. This was purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 1.31 mmol, 360 mg | COC=1C=CC2=C(CCN(C(N2)=O)C2CCNCC2)C1 | C15H21N3O2
reactant | 6-(3.6-dichloro-pyridazine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | 1.19 mmol, 480 mg | ClC=1N=NC(=CC1C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C)Cl | C13H7Cl2N3O3
reactant | DIPEA | 1.74 mmol, 0.300 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | formic acid | 0.5 mL | C(=O)O | CH2O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
product | 3-{1-[6-chloro-5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyridazin-3-yl]-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | ClC1=C(C=C(N=N1)N1CCC(CC1)N1C(NC2=C(CC1)C=C(C=C2)OC)=O)C(=O)C2=CC1=C(NC(O1)=O)C(=C2)C | C28H27ClN6O5
